US06977267B2
(1S*,4R*)-1-(4-Bromophenyl)-7-(3,5-dichlorophenyl)-5-methyl-5,7-diazaspiro[3.4]octane-6,8-dione
Using the same procedure as in Example 1 starting from 1-bromo-4-(3-bromo-1-chloropropyl)benzene (Preparation 7) and 3-(3,5-dichlorophenyl)-1-methylimidazolidine-2,4-dione, the above titled compound was obtained after reverse phase HPLC purification (gradient from CH3CN/H2O/TFA: 5/95/0.05 to CH3CN/H2O/TFA: 80/20/0.05). 1H NMR (CDCl3): 7.44 (2H, d, J=8.4 Hz), 7.25 (1H, m), 6.95-7 (4H, m), 4.05 (1H, t, J=10.1 Hz), 3.22 (3H, s), 2.65-2.85 (1H, br q), 2.4-2.65 (2H, m), 2.1-2.3 (1H, br q).

reactant | 1-bromo-4-(3-bromo-1-chloropropyl)benzene | BrC1=CC=C(C=C1)C(CCBr)Cl | C9H9Br2Cl
reactant | 3-(3,5-dichlorophenyl)-1-methylimidazolidine-2,4-dione | ClC=1C=C(C=C(C1)Cl)N1C(N(CC1=O)C)=O | C10H8Cl2N2O2
product | (1S*,4R*)-1-(4-Bromophenyl)-7-(3,5-dichlorophenyl)-5-methyl-5,7-diazaspiro[3.4]octane-6,8-dione | BrC1=CC=C(C=C1)[C@@H]1CC[C@@]12N(C(N(C2=O)C2=CC(=CC(=C2)Cl)Cl)=O)C | C19H15BrCl2N2O2
